US06844019B1
Production of Vanillin by M. isabellinus
A culture of Micromucor isabellinus (Zyl 849) grown on yeast malt agar was used to inoculate a 500 mL starter culture flask containing 100 mL medium (15 g glucose; 5 g (NH4)2SO4; 2 g K2HPO4; 0.2 g NaCl; 0.2 g MgSO4; 0.015 g CaCl2, trace element solution, 1 mL; vitamins solution 10 mL; made up to 1 liter with pH 6.0 phosphate buffer (0.2M)) containing 2 g/L vanillic acid which was incubated at 30° C. with shaking at 200 rpm for 24 hours. This starter culture was added to 5 liters of the same medium in a fermenter with the medium components made up to 1 liter with deionised water and vanillic acid added to a concentration of 1.5 gL-−1, immediately prior to inoculation. The fermenter contents were stirred at 30° C. for 18 hours with the pH of the medium being maintained at pH 5.2 by the addition of 5M sodium hydroxide solution. After this time the medium pH was gradually reduced to 3.7 over 45 minutes by the addition of 5M HCl and temperature was maintained at 30° C. Dissolved oxygen concentration was maintained at 70% of saturation throughout the process. Assay was by hplc as described above. Prior to the pH being allowed to drop at the 18 hour stage, the amount of vanillic acid in the system was measured at 1.48 gL-−1; vanillin was detected in solution at 0.02 gL-l. As the reaction proceeded various amounts of vanillic acid or glucose were added as follows: 19.25 hours, 50 g glucose; 20.25 hours, 3 g vanillic acid; 21.5 hours, 4 g vanillic acid; 23 hours, 4 g vanillic acid. Substrate and product concentrations were measured as being: 19.25 hours, vanillic acid 1.5 gL-−1, vanillin 0.1 gL-−1;: 20.25 hours, vanillic acid 1.16 gL-−1, vanillin 0.36 gL-−1;: 21.5 hours, vanillic acid 1.07 gL-−1, vanillin 0.74 gL-−1;: 23 hours, vanillic acid 1.06 gL−1, vanillin 1.22 gL-−1;: 26 hours, vanillic acid 0.83 gL-−1, vanillin 1.96 gL-−1.

reactant | glucose | 15 g | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | K2HPO4 | 2 g | OP(=O)([O-])[O-].[K+].[K+]
reactant | NaCl | 0.2 g | [Na+].[Cl-]
reactant | MgSO4 | 0.2 g | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | CaCl2 | 0.015 g | [Cl-].[Cl-].[Ca+2]
reactant | phosphate | 0.2M, pH 6.0 | P(=O)([O-])([O-])[O-]
reactant | vanillic acid | C(C1=CC(OC)=C(O)C=C1)(=O)O | C8H8O4
reactant | sodium hydroxide | 5M | [OH-].[Na+]
reactant | HCl | 5M | Cl | ClH
solvent | water | O | H2O
product | Vanillin | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
